US08026270B2
Ethyl (4-{4-(ethyloxy)-1,3-dioxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}-3-fluorophenyl)acetate
To a solution ethyl {4-[4-(ethyloxy)-9-hydroxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate (0.2 g, 0.458 mmol) in DMF (3 ml), was added sodium carbonate (0.097 g, 0.915 mmol) followed by 2,2,2-trifluoroethyl trifluoromethanesulfonate (0.159 g, 0.687 mmol). This was stirred at room temperature for 24 hours. Water was added to the reaction mixture with rapid stirring. The resulting yellow coloured solid was collected by filtration, washed with water and dried in the vacuum oven to give the title compound (0.119 g, 0.23 mmol). LC/MS: Rt=3.82, [MH]+ 520.

reactant | ethyl {4-[4-(ethyloxy)-9-hydroxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate | 0.458 mmol, 0.2 g | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1)CC(=O)OCC)F)=O)O)C=CC=C2 | C24H20FNO6
reactant | sodium carbonate | 0.915 mmol, 0.097 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.687 mmol, 0.159 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Ethyl (4-{4-(ethyloxy)-1,3-dioxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}-3-fluorophenyl)acetate | 0.23 mmol, 0.119 g | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1)CC(=O)OCC)F)=O)OCC(F)(F)F)C=CC=C2 | C26H21F4NO6
